US07109219B2
t-Butyl(4-phenoxycarbonylaminopiperidin-1-yl)carboxylate
A reaction similar to Production example 2-1 using t-Butyl 4-aminopiperidin-1-ylcarboxylate (328 mg, 1.64 mmol), phenyl chloroformate (0.226 ml, 1.80 mmol) and pyridine (0.146 ml, 1.80 mmol); and the obtained crystals were suspended in hexane:ethyl acetate=4:1, filtered off, and the filtrate was purified by silica gel column chromatography (Fuji Silysia BW-300, hexane:ethyl acetate=4:1 to 1:1). The purified crystals were then suspended in hexane:ethyl acetate=4:1 and filtered off. The title compound (215 mg, 0.617 mmol, 40.9%) was obtained as colorless crystals, together with the previously obtained crystals.

reactant | t-Butyl 4-aminopiperidin-1-ylcarboxylate | 1.64 mmol, 328 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | phenyl chloroformate | 1.80 mmol, 0.226 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyridine | 1.80 mmol, 0.146 ml | N1=CC=CC=C1 | C5H5N
solvent | hexane | CCCCCC | C6H14
product | t-Butyl(4-phenoxycarbonylaminopiperidin-1-yl)carboxylate | 0.617 mmol, 215 mg, 40.9% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)OC1=CC=CC=C1 | C17H24N2O4
